* Differential bootstrap gate driver.
.subckt bootstrap_track_hold_cell vdd vss clk_inverted vin gate_boost
CBOOTSTRAP bootstrap_top bootstrap_bottom 950f
XCLK_INV_N clk_internal clk_inverted vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=8
XCLK_INV_P clk_internal clk_inverted vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=32 nf=16
XBOOT_CAP_DISCHARGE bootstrap_bottom clk_inverted vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=8
XGATE_CONTROL_PRECHARGE gate_control clk_internal vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=16 nf=8
XBOOTSTRAP_CLAMP vdd gate_boost bootstrap_top bootstrap_top sky130_fd_pr__pfet_01v8 l=0.15 w=32 nf=16
XBOOTSTRAP_PRECHARGE vdd clk_internal gate_boost vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=8
XGATE_CONTROL_TRACK gate_control clk_internal bootstrap_bottom vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=8
XBOOTSTRAP_GATE_TRANSFER gate_boost gate_control bootstrap_top bootstrap_top sky130_fd_pr__pfet_01v8 l=0.15 w=32 nf=16
XINPUT_TRACK bootstrap_bottom gate_boost vin vss sky130_fd_pr__nfet_01v8 l=0.15 w=32 nf=16
XBOOTSTRAP_OFF_CLAMP gate_boost vdd clk_internal vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=8
.ends bootstrap_track_hold_cell

.subckt bootstrap_gate_driver vdd vss clk vinp vinn gatep gaten
XBOOTSTRAP_P vdd vss clk vinp gatep bootstrap_track_hold_cell
XBOOTSTRAP_N vdd vss clk vinn gaten bootstrap_track_hold_cell
.ends bootstrap_gate_driver
