.subckt boot_drv VIN CLK VDD VG
XINVN_P CLKN CLK VDD VDD sky130_fd_pr__pfet_01v8 w=8 l=0.15 nf=4
XINVN_N CLKN CLK 0 0     sky130_fd_pr__nfet_01v8 w=8 l=0.15 nf=4
XINVP_P CLKP CLKN VDD VDD sky130_fd_pr__pfet_01v8 w=8 l=0.15 nf=4
XINVP_N CLKP CLKN 0 0     sky130_fd_pr__nfet_01v8 w=8 l=0.15 nf=4
C_BOOT CBT CBB 1.0p
XDCHG CBB CLKN 0 0     sky130_fd_pr__nfet_01v8 w=8 l=0.15 nf=4
XPCHG CG  CLKP VDD VDD sky130_fd_pr__pfet_01v8 w=8 l=0.15 nf=4
XLIM  VDD VG   CBT CBT sky130_fd_pr__pfet_01v8 w=8 l=0.15 nf=4
XPRE  VDD CLK  VG  0   sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
XGTRK CG  CLKP CBB 0   sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
XBPP  VG   CG  CBT CBT sky130_fd_pr__pfet_01v8 w=8 l=0.15 nf=4
XPVIN CBB VG   VIN 0   sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
XCASC VG   VDD CLKP 0  sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
.ends boot_drv

.subckt clk_inv_s a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
.ends clk_inv_s

.subckt clk_inv_e a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
.ends clk_inv_e

.subckt clk_nand a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
.ends clk_nand

.subckt clk_nand_o a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
.ends clk_nand_o

.subckt bottom_plate_sampler vinp vinn clk vcm vdd vss vsp vsn vtopp vtopn
XI0 clk nclk vdd vss clk_inv_s
XI1 nclk clkbuf vdd vss clk_inv_s

XN1 clkbuf fb2 n1b vdd vss clk_nand
XIE1 n1b clkse vdd vss clk_inv_e
XD11 clkse d11 vdd vss clk_inv_s
XD12 d11 d1 vdd vss clk_inv_s
XI2 d1 q1 vdd vss clk_inv_s
XO1 q1 n1b clks vdd vss clk_nand_o
XF11 q1 f11 vdd vss clk_inv_s
XF12 f11 fb1 vdd vss clk_inv_s

XN2 nclk fb1 n2b vdd vss clk_nand
XIE2 n2b phi2e vdd vss clk_inv_e
XD21 phi2e d21 vdd vss clk_inv_s
XD22 d21 d2 vdd vss clk_inv_s
XI3 d2 q2 vdd vss clk_inv_s
XO2 q2 n2b phi2 vdd vss clk_nand_o
XF21 q2 f21 vdd vss clk_inv_s
XF22 f21 fb2 vdd vss clk_inv_s

XB_P vinp clks vdd vgp boot_drv
XB_N vinn clks vdd vgn boot_drv
XB_CM vcm clkse vdd vg boot_drv

C_P vsp vtopp 1p
C_N vsn vtopn 1p

XM_P vsp vgp vinp vss sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
XM_N vsn vgn vinn vss sky130_fd_pr__nfet_01v8 w=16 l=0.15 nf=8
XM_CM_P vtopp vg vcm vss sky130_fd_pr__nfet_01v8 w=2 l=0.15 nf=2
XM_CM_N vtopn vg vcm vss sky130_fd_pr__nfet_01v8 w=2 l=0.15 nf=2
XM_TS vtopp vg vtopn vss sky130_fd_pr__nfet_01v8 w=20 l=0.15 nf=20
.ends bottom_plate_sampler
